US07723330B2
Step A: Preparation of 4-methoxy-N-phenylpyrimidin-2-amine:
In a sealed tube was 2-chloro-4-methoxypyrimidine (1.00 g, 6.92 mmol) in 2-propanol (5 mL). Aniline (0.757 mL, 8.30 mmol) and DIEA (1.45 mL, 8.30 mmol) were added and the reaction mixture was stirred at 100° C. until the reaction was complete by HPLC. The reaction mixture was cooled to room temperature. The resulting thick suspension was filtered, washed with ethanol, collected and dried under vacuum to yield the desired product (0.164 g) as a white solid. The filtrate was concentrated and then partitioned between EtOAc and saturated aqueous NaCl. The phases were separated, and the aqueous phase was re-extracted with EtOAc (1×). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield a yellow solid. The crude product was purified by flash column chromatography, eluting with 25:1 dichloromethane/EtOAc. The desired product (0.548 g) was obtained as a white solid, which was combined with the filtered product to yield 0.712 g (51%) total desired product. 1H NMR (400 MHz, DMSO-d6) δ 9.51 (s, 1H), 8.20 (d, J=5.5 Hz, 1H), 7.77 (d, J=7.8 Hz, 2H), 7.27 (t, J=8.0 Hz, 2H), 6.94 (t, J=7.4 Hz, 1H), 6.28 (d, J=5.5 Hz, 1H), 3.91 (s, 3H). LRMS (ESI pos) m/e 202 (M+1).

reactant | 2-chloro-4-methoxypyrimidine | 6.92 mmol, 1.00 g | ClC1=NC=CC(=N1)OC | C5H5ClN2O
reactant | Aniline | 8.30 mmol, 0.757 mL | NC1=CC=CC=C1 | C6H7N
reactant | DIEA | 8.30 mmol, 1.45 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 2-propanol | 5 mL | CC(C)O | C3H8O
product | 4-methoxy-N-phenylpyrimidin-2-amine | 0.164 g | COC1=NC(=NC=C1)NC1=CC=CC=C1 | C11H11N3O
